US05521184
To a solution of 13.2 g (75 mmol) of 3-dimethylamino-1-(4-pyridyl)-2-propen-1-one [described in EP-A-0 233 461] in 500 ml of isobutanol are added 23.6 g (75 mmol) of 3-(1,1,2,2-tetrafluoroethoxy)phenylguanidine nitrate. Following the addition of 4 g (100 mmol) of sodium hydroxide, the reaction mixture is stirred for 3 hours at 110° C. The suspension is concentrated under reduced pressure, the residue is dissolved in 500 ml of methylene chloride/tetrahydrofuran (1:1), and the solution is extracted with 300 ml of water. The organic phase is dried over sodium sulfate and concentrated on a rotovap. Recrystallisation from diethyl ether/tetrahydrofuran gives N-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]-4-(4-pyridyl)-2-pyrimidine-amine; Rf =0.9 (methylene chloride:methanol =9:1), FAB-MS: 365 (M+ +1), m.p. 191°-192°.

reactant | 3-dimethylamino-1-(4-pyridyl)-2-propen-1-one | 75 mmol, 13.2 g | CN(C=CC(=O)C1=CC=NC=C1)C | C10H12N2O
reactant | 3-(1,1,2,2-tetrafluoroethoxy)phenylguanidine nitrate | 75 mmol, 23.6 g | [N+](=O)(O)[O-].FC(C(F)F)(OC=1C=C(C=CC1)NC(=N)N)F
reactant | sodium hydroxide | 100 mmol, 4 g | [OH-].[Na+]
solvent | isobutanol | 500 ml | C(C(C)C)O | C4H10O
product | N-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]-4-(4-pyridyl)-2-pyrimidine-amine | FC(C(F)F)(OC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC=NC=C1)F | C17H12F4N4O
